US08877782B2
d) (5-Methyl-3-m-tolyl-isoxazol-4-yl)-methanol
As described for example 84d, 5-methyl-3-m-tolyl-isoxazole-4-carboxylic acid ethyl ester (5.1 g, 20.8 mmol) was converted, instead of 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester, to the title compound (3.2 g, 77%) which was obtained as a light yellow oil. MS: m/e=262.3 [M+OAc]−.

reactant | 5-methyl-3-m-tolyl-isoxazole-4-carboxylic acid ethyl ester | 20.8 mmol, 5.1 g | C(C)OC(=O)C=1C(=NOC1C)C=1C=C(C=CC1)C | C14H15NO3
reactant | 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC=C1)F | C13H12FNO3
product | (5-Methyl-3-m-tolyl-isoxazol-4-yl)-methanol | 3.2 g, 77% | CC1=C(C(=NO1)C=1C=C(C=CC1)C)CO | C12H13NO2
